R1 (net29 net275) R=1.3E1
R2 (net46 net426) R=8.1E4
T3 ( net487 net487 vdd! vdd!)  pfet  L=0.44E-6 W=7.03E-6
T4 ( net191 net487 vdd! vdd!)  pfet  L=0.44E-6 W=7.03E-6
R5 ( net191 net150)  R=2.6E3
R6 (net349 net505) R=8.6E5
R7 ( net98 net424)  R=0.5E4
T8 ( net424 net424 net115 0)  nfet  L=9.98E-6 W=0.97E-6
T9 ( net115 net138 0 0)  nfet  L=9.98E-6 W=0.97E-6
T10 ( net138 net138 0 0)  nfet  L=9.98E-6 W=0.97E-6
T11 ( net372 net424 net138 0)  nfet  L=9.98E-6 W=0.97E-6
T12 (net382 0 0 0) nfet L=6.71E-6 W=5.10E-6
T13 (net488 net352 net352 0) nfet L=2.52E-6 W=2.06E-6
R14 (net366 vdd!) R=3.4E5
R15 ( net284 net49)  R=6.6E5
T16 ( net49 net49 0 0)  nfet  L=9.41E-6 W=3.93E-6
T17 ( net344 net49 0 0)  nfet  L=9.41E-6 W=3.93E-6
R18 (net444 net29) R=1.2E1
T19 (net355 net319 net319 0) nfet L=4.27E-6 W=9.42E-6
T20 (net84 vdd! vdd! 0) nfet L=0.89E-6 W=9.44E-6
R21 ( 0 net236)  R=5.4E5
T22 ( net236 net236 0 0)  nfet  L=8.93E-6 W=2.64E-6
T23 ( net296 net236 0 0)  nfet  L=8.93E-6 W=2.64E-6
R24 (net319 net158) R=1.6E0
C25 (net404 net475) C=8.9E-10
R26 (net3 net195) R=5.2E0
T27 ( net431 net431 vdd! vdd!)  pfet  L=7.94E-6 W=8.76E-6
T28 ( net376 net431 vdd! vdd!)  pfet  L=7.94E-6 W=8.76E-6
R29 ( net376 net200)  R=7.6E4
T30 (net396 net29 net29 0) pfet L=3.96E-6 W=9.11E-6
R31 (net441 net346) R=5.4E2
R32 (net404 net157) R=3.3E2
T33 (net272 net350 net350 0) pfet L=2.56E-6 W=6.34E-6
R34 ( net42 net338)  R=5.2E6
T35 ( net338 net338 net179 0)  nfet  L=8.57E-6 W=8.50E-6
T36 ( net179 net81 0 0)  nfet  L=8.57E-6 W=8.50E-6
T37 ( net81 net81 0 0)  nfet  L=8.57E-6 W=8.50E-6
T38 ( net50 net338 net81 0)  nfet  L=8.57E-6 W=8.50E-6
T39 (net251 net452 net452 0) pfet L=8.20E-6 W=0.79E-6
T40 (0 net509 net509 0) nfet L=1.32E-6 W=5.95E-6
R41 ( net42 net46)  R=5.9E6
T42 ( net46 net46 vdd! vdd!)  pfet  L=8.76E-6 W=1.53E-6
T43 ( net426 net46 vdd! vdd!)  pfet  L=8.76E-6 W=1.53E-6
C44 (0 vdd!) C=4.3E-11
R45 (net299 net12) R=8.3E1
T46 (net7 net148 net148 0) pfet L=7.93E-6 W=3.26E-6
R47 ( net367 net408)  R=2.3E5
T48 ( net408 net457 vdd! vdd!)  pfet  L=1.90E-6 W=2.61E-6
T49 ( net100 net457 vdd! vdd!)  pfet  L=1.90E-6 W=2.61E-6
T50 ( net438 net408 net100 vdd!)  pfet  L=1.90E-6 W=2.61E-6
R51 (net472 net443) R=0.7E4
R52 (net127 net17) R=5.6E1
C53 (net137 vdd!) C=9.7E-11
T54 (net502 net358 net358 0) nfet L=7.88E-6 W=3.94E-6
T55 ( net455 net455 0 0)  nfet  L=6.53E-6 W=4.66E-6
T56 ( net178 net455 0 0)  nfet  L=6.53E-6 W=4.66E-6
R57 ( net178 vdd!)  R=6.0E5
T58 (net52 net248 net248 0) nfet L=2.71E-6 W=9.19E-6
R59 (net285 net388) R=3.4E1
R60 ( net142 net83)  R=6.7E1
T61 ( net83 net83 vdd! vdd!)  pfet  L=4.14E-6 W=7.24E-6
T62 ( net247 net83 vdd! vdd!)  pfet  L=4.14E-6 W=7.24E-6
T63 (net272 net200 net200 0) pfet L=8.11E-6 W=4.82E-6
R64 ( net296 net1)  R=0.9E6
T65 ( net1 net382 0 0)  nfet  L=2.03E-6 W=7.31E-6
T66 ( net499 net382 0 0)  nfet  L=2.03E-6 W=7.31E-6
T67 ( vdd! net1 net382 0)  nfet  L=2.03E-6 W=7.31E-6
T68 (net441 net461 net461 0) pfet L=2.73E-6 W=6.93E-6
R69 ( net357 net453)  R=9.4E0
T70 ( net453 net453 vdd! vdd!)  pfet  L=8.53E-6 W=6.73E-6
T71 ( vdd! net453 vdd! vdd!)  pfet  L=8.53E-6 W=6.73E-6
T72 (net455 net88 net88 0) nfet L=3.58E-6 W=6.72E-6
T73 (net65 net86 net86 0) nfet L=0.46E-6 W=1.60E-6
R74 (net388 net15) R=9.0E0
R75 ( net390 net326)  R=2.3E0
T76 ( net326 net326 0 0)  nfet  L=3.63E-6 W=2.46E-6
T77 ( net299 net326 0 0)  nfet  L=3.63E-6 W=2.46E-6
R78 (net467 net388) R=2.8E0
R79 ( net444 net190)  R=5.1E2
T80 ( net190 net190 vdd! vdd!)  pfet  L=1.06E-6 W=3.86E-6
T81 ( net486 net190 vdd! vdd!)  pfet  L=1.06E-6 W=3.86E-6
C82 (net252 net328) C=1.8E-5
R83 (net461 net218) R=3.6E0
R84 ( net493 net217)  R=9.2E0
T85 ( net217 net217 0 0)  nfet  L=6.24E-6 W=6.14E-6
T86 ( net176 net217 0 0)  nfet  L=6.24E-6 W=6.14E-6
T87 (net122 net359 net359 0) pfet L=3.64E-6 W=6.50E-6
R88 ( net493 net386)  R=7.7E4
T89 ( net386 net386 0 0)  nfet  L=6.15E-6 W=3.03E-6
T90 ( net129 net386 0 0)  nfet  L=6.15E-6 W=3.03E-6
C91 (net70 net362) C=8.7E-10
T92 ( net73 net73 0 0)  nfet  L=4.42E-6 W=4.77E-6
T93 ( net313 net73 0 0)  nfet  L=4.42E-6 W=4.77E-6
R94 ( net313 net22)  R=7.6E5
R95 (net144 net72) R=4.2E3
T96 (net505 net300 net300 0) nfet L=2.57E-6 W=0.25E-6
R97 ( net105 net256)  R=5.1E5
T98 ( net256 net256 vdd! vdd!)  pfet  L=8.16E-6 W=0.86E-6
T99 ( net395 net256 vdd! vdd!)  pfet  L=8.16E-6 W=0.86E-6
C100 (net122 net353) C=4.4E-8
R101 ( net50 net200)  R=0.9E1
T102 ( net200 net198 vdd! vdd!)  pfet  L=9.84E-6 W=8.60E-6
T103 ( net462 net198 vdd! vdd!)  pfet  L=9.84E-6 W=8.60E-6
T104 ( 0 net200 net198 vdd!)  pfet  L=9.84E-6 W=8.60E-6
T105 (net79 net480 net480 0) pfet L=7.29E-6 W=3.40E-6
R106 ( net201 net451)  R=3.4E1
T107 ( net451 net348 vdd! vdd!)  pfet  L=8.60E-6 W=6.91E-6
T108 ( net36 net348 vdd! vdd!)  pfet  L=8.60E-6 W=6.91E-6
T109 ( net426 net451 net36 vdd!)  pfet  L=8.60E-6 W=6.91E-6
T110 (net294 net490 net490 0) nfet L=2.37E-6 W=4.24E-6
C111 (net261 net374) C=2.9E-5
R112 ( 0 net498)  R=4.5E1
T113 ( net498 net498 net166 0)  nfet  L=9.42E-6 W=5.65E-6
T114 ( net166 net381 0 0)  nfet  L=9.42E-6 W=5.65E-6
T115 ( net381 net381 0 0)  nfet  L=9.42E-6 W=5.65E-6
T116 ( net151 net498 net381 0)  nfet  L=9.42E-6 W=5.65E-6
R117 (net250 net7) R=5.2E2
T118 (net121 net75 net75 0) nfet L=9.15E-6 W=8.30E-6
R119 (net394 net362) R=7.5E2
R120 (net272 0) R=9.0E2
T121 ( net61 net61 vdd! vdd!)  pfet  L=1.35E-6 W=0.60E-6
T122 ( net63 net61 vdd! vdd!)  pfet  L=1.35E-6 W=0.60E-6
R123 ( net63 net493)  R=7.7E2
T124 (0 net349 net349 0) nfet L=1.51E-6 W=1.15E-6
R125 ( 0 net136)  R=1.7E0
T126 ( net136 net136 vdd! vdd!)  pfet  L=9.72E-6 W=3.85E-6
T127 ( vdd! net136 vdd! vdd!)  pfet  L=9.72E-6 W=3.85E-6
T128 (net292 net373 net373 0) pfet L=8.66E-6 W=0.22E-6
R129 ( vdd! net183)  R=7.4E4
T130 ( net183 net183 0 0)  nfet  L=8.70E-6 W=5.92E-6
T131 ( net34 net183 0 0)  nfet  L=8.70E-6 W=5.92E-6
T132 (net452 net195 net195 0) pfet L=1.20E-6 W=9.62E-6
T133 ( net193 net193 0 0)  nfet  L=5.58E-6 W=8.91E-6
T134 ( net8 net193 0 0)  nfet  L=5.58E-6 W=8.91E-6
R135 ( net8 net400)  R=7.5E0
C136 (net360 net400) C=7.0E-12
T137 (net303 net367 net367 0) pfet L=1.80E-6 W=6.28E-6
C138 (net401 net470) C=3.7E-10
R139 ( net259 net96)  R=4.0E3
T140 ( net96 net223 0 0)  nfet  L=0.79E-6 W=2.95E-6
T141 ( net26 net223 0 0)  nfet  L=0.79E-6 W=2.95E-6
T142 ( net488 net96 net26 0)  nfet  L=0.79E-6 W=2.95E-6
T143 (net201 net66 net66 0) nfet L=0.62E-6 W=3.91E-6
T144 (net88 net245 net245 0) pfet L=8.03E-6 W=5.66E-6
T145 (net279 0 0 0) nfet L=4.16E-6 W=5.92E-6
R146 ( net20 net176)  R=2.2E0
T147 ( net176 net176 net114 0)  nfet  L=8.14E-6 W=2.84E-6
T148 ( net114 net405 0 0)  nfet  L=8.14E-6 W=2.84E-6
T149 ( net405 net405 0 0)  nfet  L=8.14E-6 W=2.84E-6
T150 ( net448 net176 net405 0)  nfet  L=8.14E-6 W=2.84E-6
T151 (vdd! net93 net93 0) nfet L=5.74E-6 W=1.15E-6
R152 ( net479 net371)  R=5.1E3
T153 ( net371 net69 0 0)  nfet  L=0.75E-6 W=5.83E-6
T154 ( net175 net69 0 0)  nfet  L=0.75E-6 W=5.83E-6
T155 ( vdd! net371 net69 0)  nfet  L=0.75E-6 W=5.83E-6
C156 (net465 net14) C=3.8E-14
R157 ( net121 net314)  R=3.1E2
T158 ( net314 net23 0 0)  nfet  L=6.80E-6 W=5.76E-6
T159 ( net426 net23 0 0)  nfet  L=6.80E-6 W=5.76E-6
T160 ( vdd! net314 net23 0)  nfet  L=6.80E-6 W=5.76E-6
C161 (net463 net280) C=5.6E-7
R162 ( net286 net123)  R=9.6E2
T163 ( net123 net123 net57 vdd!)  pfet  L=5.74E-6 W=5.67E-6
T164 ( net57 net150 vdd! vdd!)  pfet  L=5.74E-6 W=5.67E-6
T165 ( net150 net150 vdd! vdd!)  pfet  L=5.74E-6 W=5.67E-6
T166 ( net165 net123 net150 vdd!)  pfet  L=5.74E-6 W=5.67E-6
R167 (net285 net213) R=4.8E0
T168 (net288 net65 net65 0) nfet L=6.32E-6 W=2.95E-6
R169 ( net17 net110)  R=0.5E0
T170 ( net110 net241 0 0)  nfet  L=3.93E-6 W=7.94E-6
T171 ( net119 net241 0 0)  nfet  L=3.93E-6 W=7.94E-6
T172 ( net384 net110 net119 0)  nfet  L=3.93E-6 W=7.94E-6
R173 (net389 net194) R=9.4E0
R174 ( net353 net246)  R=7.7E3
T175 ( net246 net195 0 0)  nfet  L=2.19E-6 W=3.12E-6
T176 ( net6 net195 0 0)  nfet  L=2.19E-6 W=3.12E-6
T177 ( vdd! net246 net195 0)  nfet  L=2.19E-6 W=3.12E-6
T178 (net186 net145 net145 0) nfet L=4.58E-6 W=1.39E-6
C179 (net447 net225) C=7.1E-12
R180 ( net257 net296)  R=3.3E4
T181 ( net296 net296 0 0)  nfet  L=0.37E-6 W=8.35E-6
T182 ( net347 net296 0 0)  nfet  L=0.37E-6 W=8.35E-6
T183 (net339 net84 net84 0) pfet L=0.47E-6 W=7.02E-6
T184 (net316 net155 net155 0) pfet L=4.97E-6 W=5.02E-6
T185 (net112 net151 net151 0) pfet L=5.69E-6 W=6.94E-6
R186 ( net233 net493)  R=3.3E6
T187 ( net493 net255 0 0)  nfet  L=1.39E-6 W=2.28E-6
T188 ( net488 net255 0 0)  nfet  L=1.39E-6 W=2.28E-6
T189 ( net341 net493 net488 0)  nfet  L=1.39E-6 W=2.28E-6
C190 (net39 net228) C=1.3E-11
R191 ( net297 net171)  R=7.3E1
T192 ( net171 net171 net409 vdd!)  pfet  L=1.80E-6 W=5.67E-6
T193 ( net409 net442 vdd! vdd!)  pfet  L=1.80E-6 W=5.67E-6
T194 ( net442 net442 vdd! vdd!)  pfet  L=1.80E-6 W=5.67E-6
T195 ( net422 net171 net442 vdd!)  pfet  L=1.80E-6 W=5.67E-6
T196 (net263 net461 net461 0) nfet L=7.54E-6 W=9.89E-6
T197 (net133 net411 net411 0) nfet L=4.15E-6 W=9.85E-6
R198 (net14 vdd!) R=0.2E4
R199 ( net437 net441)  R=0.7E0
T200 ( net441 net272 0 0)  nfet  L=3.91E-6 W=1.13E-6
T201 ( net349 net272 0 0)  nfet  L=3.91E-6 W=1.13E-6
T202 ( net308 net441 net349 0)  nfet  L=3.91E-6 W=1.13E-6
T203 (net174 net131 net131 0) nfet L=9.49E-6 W=0.47E-6
R204 ( net249 net310)  R=1.3E0
T205 ( net310 net244 vdd! vdd!)  pfet  L=2.58E-6 W=4.83E-6
T206 ( net189 net244 vdd! vdd!)  pfet  L=2.58E-6 W=4.83E-6
T207 ( net207 net310 net189 vdd!)  pfet  L=2.58E-6 W=4.83E-6
T208 (net394 net84 net84 0) nfet L=4.59E-6 W=2.95E-6
R209 ( vdd! net240)  R=5.1E5
T210 ( net240 net476 0 0)  nfet  L=9.36E-6 W=3.58E-6
T211 ( net130 net476 0 0)  nfet  L=9.36E-6 W=3.58E-6
T212 ( net389 net240 net130 0)  nfet  L=9.36E-6 W=3.58E-6
R213 (net461 net482) R=8.7E4
R214 ( net277 net82)  R=2.2E6
T215 ( net82 net355 vdd! vdd!)  pfet  L=0.16E-6 W=4.89E-6
T216 ( net305 net355 vdd! vdd!)  pfet  L=0.16E-6 W=4.89E-6
T217 ( net293 net82 net305 vdd!)  pfet  L=0.16E-6 W=4.89E-6
T218 (0 net92 net92 0) nfet L=5.09E-6 W=9.16E-6
T219 ( net449 net449 vdd! vdd!)  pfet  L=1.53E-6 W=5.60E-6
T220 ( net135 net449 vdd! vdd!)  pfet  L=1.53E-6 W=5.60E-6
R221 ( net135 vdd!)  R=6.7E2
R222 (net340 net24) R=5.5E5
R223 ( net102 net374)  R=8.7E1
T224 ( net374 net374 net347 0)  nfet  L=7.73E-6 W=6.05E-6
T225 ( net347 net197 0 0)  nfet  L=7.73E-6 W=6.05E-6
T226 ( net197 net197 0 0)  nfet  L=7.73E-6 W=6.05E-6
T227 ( net145 net374 net197 0)  nfet  L=7.73E-6 W=6.05E-6
C228 (net293 net312) C=1.4E-13
T229 (net427 net247 net247 0) nfet L=3.23E-6 W=3.87E-6
R230 ( net399 net84)  R=2.5E1
T231 ( net84 net84 0 0)  nfet  L=4.68E-6 W=6.60E-6
T232 ( 0 net84 0 0)  nfet  L=4.68E-6 W=6.60E-6
T233 (net228 net229 net229 0) pfet L=8.25E-6 W=4.77E-6
R234 ( net222 net62)  R=7.9E4
T235 ( net62 net359 vdd! vdd!)  pfet  L=7.06E-6 W=9.85E-6
T236 ( net432 net359 vdd! vdd!)  pfet  L=7.06E-6 W=9.85E-6
T237 ( 0 net62 net359 vdd!)  pfet  L=7.06E-6 W=9.85E-6
T238 (vdd! net188 net188 0) nfet L=4.77E-6 W=5.44E-6
R239 ( net65 net89)  R=3.0E3
T240 ( net89 net89 net452 vdd!)  pfet  L=9.73E-6 W=9.31E-6
T241 ( net452 net133 vdd! vdd!)  pfet  L=9.73E-6 W=9.31E-6
T242 ( net133 net133 vdd! vdd!)  pfet  L=9.73E-6 W=9.31E-6
T243 ( net211 net89 net133 vdd!)  pfet  L=9.73E-6 W=9.31E-6
T244 (net383 vdd! vdd! 0) pfet L=4.23E-6 W=3.30E-6
T245 (net165 net464 net464 0) pfet L=2.28E-6 W=1.57E-6
R246 ( net417 net334)  R=8.2E3
T247 ( net334 net360 0 0)  nfet  L=3.05E-6 W=8.35E-6
T248 ( net149 net360 0 0)  nfet  L=3.05E-6 W=8.35E-6
T249 ( vdd! net334 net360 0)  nfet  L=3.05E-6 W=8.35E-6
R250 (net145 net369) R=1.7E1
C251 (net58 net436) C=9.5E-12
T252 ( net74 net74 vdd! vdd!)  pfet  L=0.67E-6 W=9.33E-6
T253 ( net271 net74 vdd! vdd!)  pfet  L=0.67E-6 W=9.33E-6
R254 ( net271 net387)  R=9.5E2
C255 (net284 net97) C=1.2E-13
R256 ( net449 net185)  R=4.5E3
T257 ( net185 net344 vdd! vdd!)  pfet  L=9.85E-6 W=3.90E-6
T258 ( net342 net344 vdd! vdd!)  pfet  L=9.85E-6 W=3.90E-6
T259 ( 0 net185 net344 vdd!)  pfet  L=9.85E-6 W=3.90E-6
T260 (net151 net492 net492 0) nfet L=1.37E-6 W=3.93E-6
R261 ( net320 net67)  R=0.7E2
T262 ( net67 net471 vdd! vdd!)  pfet  L=3.51E-6 W=1.00E-6
T263 ( net466 net471 vdd! vdd!)  pfet  L=3.51E-6 W=1.00E-6
T264 ( 0 net67 net471 vdd!)  pfet  L=3.51E-6 W=1.00E-6
R265 (net71 net461) R=8.3E5
C266 (net412 net126) C=7.7E-5
R267 ( net281 net11)  R=0.9E4
T268 ( net11 net415 vdd! vdd!)  pfet  L=5.32E-6 W=9.57E-6
T269 ( net226 net415 vdd! vdd!)  pfet  L=5.32E-6 W=9.57E-6
T270 ( 0 net11 net415 vdd!)  pfet  L=5.32E-6 W=9.57E-6
T271 (net446 net434 net434 0) pfet L=0.21E-6 W=3.44E-6
R272 ( net128 net277)  R=2.7E5
T273 ( net277 net277 net447 vdd!)  pfet  L=6.07E-6 W=1.70E-6
T274 ( net447 net474 vdd! vdd!)  pfet  L=6.07E-6 W=1.70E-6
T275 ( net474 net474 vdd! vdd!)  pfet  L=6.07E-6 W=1.70E-6
T276 ( net147 net277 net474 vdd!)  pfet  L=6.07E-6 W=1.70E-6
T277 (net182 net329 net329 0) pfet L=8.49E-6 W=9.08E-6
C278 (net422 net258) C=9.2E-12
R279 (net307 net39) R=5.0E0
R280 (net134 net391) R=6.1E2
T281 (net158 net3 net3 0) nfet L=1.06E-6 W=2.52E-6
C282 (vdd! net14) C=9.4E-12
T283 (net38 net262 net262 0) pfet L=2.29E-6 W=5.98E-6
R284 (net304 net207) R=1.3E6
R285 (net111 net418) R=9.6E5
T286 (net104 net41 net41 0) pfet L=5.77E-6 W=7.84E-6
C287 (net351 net339) C=0.6E-7
T288 (net288 net172 net172 0) pfet L=6.91E-6 W=4.99E-6
R289 (net261 0) R=0.9E6
T290 (net492 net390 net390 0) pfet L=9.89E-6 W=4.63E-6
R291 (net204 net243) R=8.7E5
R292 (net58 net423) R=0.3E5
C293 (net469 net238) C=5.7E-13
R294 (net156 net47) R=3.8E5
R295 (net503 net397) R=2.7E4
C296 (net109 net184) C=9.1E-12
T297 (net85 net51 net51 0) pfet L=7.48E-6 W=9.58E-6
C298 (net363 net65) C=6.1E-11
R299 (net73 net261) R=0.6E1
R300 (net188 0) R=0.2E4
R301 (net329 net20) R=6.9E0
T302 (net33 net33 net33 0) nfet L=9.28E-6 W=3.11E-6
T303 (net473 net284 net284 0) nfet L=8.36E-6 W=8.44E-6
T304 (net460 net366 net366 0) pfet L=2.35E-6 W=1.40E-6
R305 (net40 net377) R=3.6E4
R306 (vdd! net466) R=5.8E5
R307 (net34 net368) R=2.5E5
T308 (net165 net502 net502 0) nfet L=4.49E-6 W=5.87E-6
T309 (net393 net224 net224 0) nfet L=8.29E-6 W=7.46E-6
T310 (net428 0 0 0) nfet L=9.92E-6 W=1.05E-6
C311 (net245 net30) C=2.8E-7
C312 (net201 net162) C=4.9E-11
C313 (net35 net423) C=7.8E-8
C314 (net122 vdd!) C=3.2E-8
R315 (net68 net262) R=3.7E4
T316 (net5 net426 net426 0) nfet L=6.98E-6 W=6.59E-6
T317 (vdd! net153 net153 0) nfet L=5.14E-6 W=4.95E-6
R318 (vdd! net506) R=8.7E1
T319 (net509 net270 net270 0) nfet L=4.64E-6 W=9.71E-6
T320 (net439 net50 net50 0) pfet L=1.33E-6 W=1.18E-6
R321 (net357 net5) R=6.0E1
T322 (net427 net117 net117 0) pfet L=4.67E-6 W=6.21E-6
T323 (net316 net459 net459 0) pfet L=9.96E-6 W=0.66E-6
T324 (net141 net224 net224 0) nfet L=6.15E-6 W=8.77E-6
T325 (net159 net319 net319 0) pfet L=5.46E-6 W=7.29E-6
R326 (net260 net151) R=4.4E6
R327 (net181 net253) R=1.2E6
C328 (net108 net213) C=8.5E-6
T329 (net104 vdd! vdd! 0) pfet L=7.21E-6 W=6.23E-6
T330 (net34 net454 net454 0) nfet L=9.99E-6 W=0.72E-6
T331 (vdd! net108 net108 0) nfet L=4.44E-6 W=4.84E-6
T332 (net194 vdd! vdd! 0) pfet L=1.44E-6 W=4.88E-6
C333 (net15 net72) C=2.7E-5
C334 (net208 net88) C=4.1E-8
T335 (net248 net76 net76 0) pfet L=5.28E-6 W=1.15E-6
T336 (net211 net465 net465 0) nfet L=5.03E-6 W=4.97E-6
T337 (net205 net17 net17 0) pfet L=4.43E-6 W=0.57E-6
T338 (vdd! net269 net269 0) pfet L=2.65E-6 W=5.94E-6
T339 (net17 0 0 0) pfet L=5.85E-6 W=6.38E-6
T340 (net238 net210 net210 0) nfet L=9.04E-6 W=3.60E-6
T341 (net383 net325 net325 0) nfet L=5.50E-6 W=5.82E-6
T342 (net101 net294 net294 0) pfet L=2.84E-6 W=0.62E-6
C343 (net300 net43) C=3.2E-11
R344 (net262 net219) R=2.8E3
T345 (net446 net173 net173 0) nfet L=0.40E-6 W=4.55E-6
T346 (net353 net97 net97 0) pfet L=3.05E-6 W=8.85E-6
R347 (net276 net235) R=9.6E3
R348 (net259 net337) R=4.0E6
R349 (net402 net328) R=6.6E3
R350 (net301 net295) R=8.8E2
T351 (0 net117 net117 0) pfet L=1.89E-6 W=0.65E-6
R352 (net51 net167) R=9.8E2
T353 (net139 net79 net79 0) nfet L=5.91E-6 W=0.60E-6
R354 (0 net25) R=4.6E1
T355 (net264 net427 net427 0) nfet L=4.62E-6 W=5.06E-6
R356 (net503 vdd!) R=7.6E2
T357 (vdd! net229 net229 0) pfet L=7.29E-6 W=4.55E-6
T358 (net363 net180 net180 0) pfet L=3.73E-6 W=4.47E-6
T359 (net51 net48 net48 0) nfet L=5.21E-6 W=9.57E-6
T360 (net331 net254 net254 0) nfet L=9.81E-6 W=2.10E-6
C361 (net469 net302) C=2.3E-14
R362 (net29 net259) R=7.9E0
R363 (net418 net468) R=2.7E3
C364 (net258 0) C=9.1E-7
C365 (net403 net137) C=7.1E-9
T366 (net345 net95 net95 0) pfet L=4.64E-6 W=3.49E-6
C367 (net87 net309) C=2.6E-6
T368 (net102 net385 net385 0) pfet L=8.27E-6 W=2.61E-6
T369 (net47 net120 net120 0) pfet L=9.47E-6 W=7.34E-6
T370 (net24 net454 net454 0) nfet L=7.26E-6 W=6.25E-6
C371 (net91 net361) C=8.7E-11
T372 (net248 0 0 0) nfet L=4.09E-6 W=3.81E-6
T373 (net489 net287 net287 0) nfet L=9.22E-6 W=3.04E-6
R374 (net211 net468) R=7.3E3
T375 (net212 net333 net333 0) pfet L=0.38E-6 W=9.87E-6
T376 (net481 net45 net45 0) pfet L=6.16E-6 W=0.21E-6
T377 (net122 net42 net42 0) nfet L=8.02E-6 W=7.34E-6
R378 (net186 0) R=6.7E3
R379 (net399 net226) R=2.0E5
T380 (net466 net93 net93 0) pfet L=4.77E-6 W=9.97E-6
T381 (net294 net475 net475 0) nfet L=1.00E-6 W=8.37E-6
T382 (net285 net78 net78 0) pfet L=3.40E-6 W=1.98E-6
R383 (net85 net341) R=8.6E0
C384 (net394 net151) C=0.7E-13
R385 (net254 net438) R=7.6E2
T386 (net301 net401 net401 0) pfet L=4.16E-6 W=4.61E-6
T387 (vdd! net402 net402 0) nfet L=9.69E-6 W=7.14E-6
T388 (net157 net502 net502 0) pfet L=3.04E-6 W=9.63E-6
C389 (net411 0) C=1.2E-10
T390 (vdd! net431 net431 0) nfet L=9.34E-6 W=8.68E-6
R391 (net109 net102) R=5.5E3
R392 (net192 net155) R=8.0E2
T393 (net75 net315 net315 0) pfet L=9.13E-6 W=1.82E-6
T394 (net112 net281 net281 0) nfet L=0.41E-6 W=0.13E-6
T395 (net164 net154 net154 0) nfet L=6.30E-6 W=6.52E-6
T396 (0 net229 net229 0) nfet L=3.93E-6 W=9.20E-6
T397 (net206 net162 net162 0) pfet L=5.79E-6 W=3.12E-6
T398 (net159 net109 net109 0) nfet L=0.46E-6 W=4.52E-6
T399 (net68 net274 net274 0) nfet L=1.20E-6 W=7.24E-6
T400 (net260 net303 net303 0) nfet L=7.18E-6 W=4.58E-6
C401 (net113 net174) C=3.1E-14
R402 (net433 net289) R=7.8E4
R403 (net437 net153) R=7.4E6
R404 (vdd! net350) R=8.3E0
T405 (net156 net203 net203 0) pfet L=5.54E-6 W=4.32E-6
T406 (net152 net65 net65 0) pfet L=8.00E-6 W=4.05E-6
R407 (net9 net285) R=2.3E4
T408 (vdd! net76 net76 0) pfet L=0.92E-6 W=5.55E-6
C409 (0 net490) C=9.2E-7
R410 (net109 net288) R=9.0E5
C411 (net132 0) C=8.7E-11
C412 (net464 vdd!) C=5.1E-8
T413 (net12 net15 net15 0) nfet L=3.95E-6 W=3.99E-6
T414 (vdd! vdd! vdd! 0) pfet L=4.26E-6 W=6.48E-6
C415 (net392 net331) C=9.1E-5
C416 (net341 vdd!) C=5.0E-14
T417 (net169 net154 net154 0) pfet L=3.74E-6 W=5.33E-6
T418 (net245 net417 net417 0) nfet L=6.12E-6 W=1.26E-6
T419 (net486 net172 net172 0) nfet L=3.23E-6 W=2.14E-6
T420 (net459 vdd! vdd! 0) nfet L=2.55E-6 W=4.55E-6
T421 (net161 net278 net278 0) nfet L=1.76E-6 W=5.48E-6
T422 (net506 net211 net211 0) nfet L=5.08E-6 W=3.68E-6
C423 (net468 net225) C=3.0E-11
R424 (net461 net52) R=9.0E4
R425 (net510 net3) R=2.0E0
C426 (net86 net42) C=2.6E-12
R427 (net435 net339) R=2.4E3
T428 (net219 net261 net261 0) pfet L=8.93E-6 W=4.55E-6
T429 (net153 net396 net396 0) nfet L=2.60E-6 W=9.85E-6
T430 (net229 net248 net248 0) pfet L=3.28E-6 W=1.90E-6
R431 (net482 net247) R=3.3E4
T432 (net74 net85 net85 0) nfet L=4.86E-6 W=5.34E-6
R433 (net173 net168) R=4.4E4
R434 (net439 net456) R=4.1E1
R435 (net209 net391) R=1.9E3
T436 (net98 net481 net481 0) pfet L=5.54E-6 W=9.23E-6
T437 (net48 net252 net252 0) pfet L=7.25E-6 W=6.82E-6
C438 (net425 net175) C=1.1E-6
T439 (net433 vdd! vdd! 0) nfet L=2.70E-6 W=5.24E-6
T440 (net291 net90 net90 0) nfet L=8.83E-6 W=6.09E-6
R441 (net302 net368) R=5.7E4
T442 (net506 net149 net149 0) nfet L=4.20E-6 W=6.21E-6
R443 (net251 net350) R=9.7E1
C444 (net229 net90) C=9.1E-13
T445 (0 net274 net274 0) nfet L=5.06E-6 W=3.25E-6
R446 (net300 net75) R=4.2E6
T447 (vdd! net227 net227 0) nfet L=8.43E-6 W=6.40E-6
R448 (net9 vdd!) R=9.0E1
T449 (net35 net263 net263 0) nfet L=5.34E-6 W=7.17E-6
T450 (net47 net105 net105 0) nfet L=3.83E-6 W=2.50E-6
T451 (net222 net170 net170 0) nfet L=8.37E-6 W=4.58E-6
C452 (net97 net199) C=5.7E-13
T453 (0 net460 net460 0) pfet L=3.63E-6 W=6.75E-6
C454 (net258 net252) C=7.2E-6
R455 (0 net44) R=4.4E2
C456 (net433 net258) C=1.7E-5
T457 (net352 net402 net402 0) pfet L=8.81E-6 W=5.68E-6
T458 (net207 net234 net234 0) pfet L=4.13E-6 W=6.25E-6
C459 (net238 net140) C=0.5E-5
T460 (net132 net302 net302 0) nfet L=9.70E-6 W=2.04E-6
T461 (net398 net239 net239 0) nfet L=1.62E-6 W=2.44E-6
R462 (net478 net147) R=1.2E1
T463 (net156 net510 net510 0) pfet L=7.50E-6 W=5.80E-6
T464 (vdd! net274 net274 0) nfet L=2.99E-6 W=8.32E-6
C465 (0 net384) C=4.1E-13
C466 (net458 net228) C=5.2E-8
C467 (net507 net153) C=4.1E-7
T468 (net212 net71 net71 0) pfet L=2.42E-6 W=3.22E-6
R469 (net390 net372) R=0.7E4
C470 (net394 vdd!) C=3.4E-13
C471 (net238 net38) C=9.2E-6
T472 (net343 net350 net350 0) pfet L=7.53E-6 W=6.90E-6
T473 (net286 net193 net193 0) nfet L=5.65E-6 W=0.11E-6
T474 (net94 net245 net245 0) nfet L=3.65E-6 W=8.60E-6
C475 (net249 net13) C=1.9E-13
T476 (net365 net186 net186 0) pfet L=7.43E-6 W=8.59E-6
C477 (net219 net228) C=5.1E-10
R478 (net254 net303) R=8.7E3
C479 (net387 net425) C=3.7E-13
C480 (net180 net268) C=7.6E-10
T481 (net95 net72 net72 0) nfet L=5.13E-6 W=2.83E-6
R482 (net243 net61) R=6.6E2
T483 (net186 net394 net394 0) nfet L=7.88E-6 W=2.35E-6
T484 (0 net364 net364 0) nfet L=4.79E-6 W=2.52E-6
C485 (net151 net147) C=3.6E-11
R486 (net211 net251) R=7.2E2
R487 (net401 0) R=1.2E6
R488 (net162 net275) R=4.4E2
R489 (net286 0) R=7.6E6
C490 (net248 net434) C=8.4E-7
T491 (net401 net48 net48 0) nfet L=4.77E-6 W=9.19E-6
T492 (net485 net266 net266 0) pfet L=5.73E-6 W=9.84E-6
T493 (net128 net125 net125 0) pfet L=7.80E-6 W=7.64E-6
C494 (net278 vdd!) C=7.0E-10
R495 (net403 net434) R=0.9E0
C496 (net50 net18) C=1.3E-14
T497 (net221 net74 net74 0) pfet L=9.67E-6 W=5.14E-6
T498 (net402 net402 net402 0) nfet L=2.74E-6 W=2.84E-6
C499 (net448 net50) C=9.3E-7
T500 (net373 net108 net108 0) pfet L=6.34E-6 W=4.57E-6
C501 (net483 net76) C=6.9E-8
T502 (net60 net373 net373 0) pfet L=7.27E-6 W=6.04E-6
T503 (0 net332 net332 0) nfet L=4.49E-6 W=1.14E-6
T504 (net444 net212 net212 0) pfet L=1.88E-6 W=4.19E-6
T505 (0 net205 net205 0) pfet L=3.54E-6 W=1.93E-6
T506 (net28 net37 net37 0) nfet L=2.27E-6 W=9.90E-6
T507 (net199 net286 net286 0) nfet L=8.63E-6 W=7.76E-6
C508 (net86 net464) C=1.1E-13
T509 (net362 net131 net131 0) nfet L=0.44E-6 W=2.23E-6
T510 (net462 net503 net503 0) pfet L=8.79E-6 W=0.19E-6
C511 (net6 net181) C=2.7E-7
C512 (net243 net337) C=9.4E-7
T513 (net48 net427 net427 0) nfet L=1.08E-6 W=3.62E-6
C514 (net131 net263) C=1.7E-11
C515 (net202 vdd!) C=6.4E-14
T516 (net430 net104 net104 0) pfet L=6.39E-6 W=0.57E-6
T517 (net437 net500 net500 0) pfet L=9.57E-6 W=3.21E-6
T518 (net494 net141 net141 0) nfet L=5.56E-6 W=2.97E-6
C519 (net142 net187) C=6.5E-7
T520 (net357 net331 net331 0) nfet L=7.10E-6 W=8.96E-6
T521 (net384 net94 net94 0) pfet L=3.22E-6 W=2.99E-6
T522 (net105 net370 net370 0) pfet L=3.46E-6 W=1.87E-6
R523 (net170 net108) R=4.8E6
T524 (net207 net193 net193 0) nfet L=3.79E-6 W=10.00E-6
R525 (net168 net154) R=9.4E3
T526 (net44 net154 net154 0) nfet L=7.26E-6 W=3.41E-6
R527 (net151 net145) R=2.8E6

